US04266014
(d) 1-(2',2',2'-trifluoroethyl)-3-carbamoyl-2-pyrazolin-5-one
0.71 Mole (169 g) of 1-(2',2',2'-trifluoroethyl)-3-carbethoxy-2-pyrazolin-5-one were stirred for 8 hours in concentrated ammonium hydroxide and left standing afterwards for 5 days in a sealed recipient at room temperature. After filtration the filtrate obtained was poured out on ice and acidified with hydrochloric acid. As soon as the product had crystallized out completely, it was filtered and washed with water.

reactant | 1-(2',2',2'-trifluoroethyl)-3-carbethoxy-2-pyrazolin-5-one | 0.71 Mole, 169 g | FC(CN1N=C(CC1=O)C(=O)OCC)(F)F | C8H9F3N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1-(2',2',2'-trifluoroethyl)-3-carbamoyl-2-pyrazolin-5-one | FC(CN1N=C(CC1=O)C(N)=O)(F)F | C6H6F3N3O2
